US05994368
Trifluoroacetic acid (3.3 ml) was added to a solution of N-(tert-butoxycarbonyl)-N-(tert-butoxycarbonylmethyl)-4-methylcarbamoylaniline (250 mg) in ice water bath and stirred for 20 hours at ambient temperature. The solvent was evaporated under reduced pressure. The residue was pulverized with diethyl ether to give N-(4-methylcarbamoylphenyl) glycine (125 mg).

reactant | Trifluoroacetic acid | 3.3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(tert-butoxycarbonyl)-N-(tert-butoxycarbonylmethyl)-4-methylcarbamoylaniline | 250 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=C1)C(NC)=O)CC(=O)OC(C)(C)C | C19H28N2O5
product | N-(4-methylcarbamoylphenyl) glycine | 125 mg | CNC(=O)C1=CC=C(C=C1)NCC(=O)O | C10H12N2O3
